US06355799B1
Preparation of 6-chloro-4-fluoro-2-nitro-3-(phthalimido)methoxybenzene
2-Chloro-4-fluoro-5-(phthalimido)methoxybenzene (5.0 g, 16.4 mmol) was slowly added to a stirred mixture of con. sulfuric acid-con. nitric acid (10:1, 20 ml) at −20° C. Solution was then warmed to ambient temperature and allowed to stir for 1 hr. Addition to ice-water resulted in a light yellow precipitate which was separated by filtration. Column chromatography on silica gel in hexane-methylene chloride (3:7) furnished the title compound (3.2 g); 1H NMR (CDCl3, 300 MHz) 4.06 (3H, s), 7.54 (1H, d, J=8.5 Hz), 7.84 (2H, m), 7.97 (2H, m) ppm.

reactant | 2-Chloro-4-fluoro-5-(phthalimido)methoxybenzene | 16.4 mmol, 5.0 g | ClC1=CC=C(C(=C1)F)OCN1C(C=2C(C1=O)=CC=CC2)=O | C15H9ClFNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 6-chloro-4-fluoro-2-nitro-3-(phthalimido)methoxybenzene | 3.2 g | ClC1=CC(=C(C(=C1)[N+](=O)[O-])OCN1C(C=2C(C1=O)=CC=CC2)=O)F | C15H8ClFN2O5
